US08685975B2
To a solution of 1-(4-bromo-3,5-dimethoxyphenyl)propan-1-ol (5.4 g, 19.6 mmol) in anhydrous CH2Cl2 (75 mL) was added MnO2 (17 g, 196 mmol). After the mixture was placed under a drying tube and stirred at room temperature for 22 hrs, it was filtered through a pad of Celite and silica gel and rinsed with EtOAc. Concentration of the filtrate in vacuo gave 1-(4-bromo-3,5-dimethoxyphenyl)propan-1-one as a white solid (5.4 g, 100% yield). The product was used without further purification.

reactant | 1-(4-bromo-3,5-dimethoxyphenyl)propan-1-ol | 19.6 mmol, 5.4 g | BrC1=C(C=C(C=C1OC)C(CC)O)OC | C11H15BrO3
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 196 mmol, 17 g | O=[Mn]=O
product | 1-(4-bromo-3,5-dimethoxyphenyl)propan-1-one | 5.4 g, 100% yield | BrC1=C(C=C(C=C1OC)C(CC)=O)OC | C11H13BrO3
